US04739050
3,4-Dihydro-2-(3-dimethylaminopropyl)-4-methyl-3-oxo-2-[4-(tetrahydropyran-2-yloxy)phenyl]-2H-1,4-benzothiazine (compound No. 76)
To a stirred suspension of 60% sodium hydride (3.1 g) in dimethylformamide (30 ml), 3,4-dihydro-4-methyl-3-oxo-2-[4-(tetrahydropyran-2-yloxy)phenyl]-2H-1,4-benzothiazine (25.0 g) dissolved in dimethylformamide (60 ml) is added under nitrogen atmosphere, and the mixture is stirred for 30 minutes. A solution of 3-dimethylaminopropyl chloride in dimethylformamide [prepared by mixing of 3-dimethylaminopropyl chloride hydrochloride (13.3 g) and triethylamine (11.8 ml) in dimethylformamide (50 ml) and followed by filtration to remove precipitate] is added to the reaction mixture, and the mixture is stirred for 1 hour at 65°-75° C. The mixture is poured into water and extracted with ethyl acetate. The organic layer is washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated in vacuo to give 25.1 g (81.0%) of the titled compound.

reactant | sodium hydride | 3.1 g | [H-].[Na+]
reactant | 3,4-dihydro-4-methyl-3-oxo-2-[4-(tetrahydropyran-2-yloxy)phenyl]-2H-1,4-benzothiazine | 25.0 g | CN1C(C(SC2=C1C=CC=C2)C2=CC=C(C=C2)OC2OCCCC2)=O | C20H21NO3S
reactant | 3-dimethylaminopropyl chloride | CN(CCCCl)C | C5H12ClN
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 11.8 ml, 13.3 g | CN(C=O)C | C3H7NO
product | 3,4-Dihydro-2-(3-dimethylaminopropyl)-4-methyl-3-oxo-2-[4-(tetrahydropyran-2-yloxy)phenyl]-2H-1,4-benzothiazine | 25.1 g, 81.0% | CN(CCCC1(SC2=C(N(C1=O)C)C=CC=C2)C2=CC=C(C=C2)OC2OCCCC2)C | C25H32N2O3S
